* c:\users\lenovo\esim-workspace\sinewave_generator\sinewave_generator.cir

* u1  net-_u1-pad1_ ? in net-_u1-pad4_ dff
* u2  net-_u1-pad4_ ? in net-_u2-pad4_ dff
* u5  net-_u2-pad4_ ? in net-_u5-pad4_ dff
* u6  net-_u5-pad4_ ? in net-_u6-pad4_ dff
* u9  net-_u6-pad4_ net-_u1-pad1_ d_inverter
* u4  net-_u4-pad1_ in adc_bridge_1
* u7  net-_u1-pad4_ net-_u2-pad4_ net-_u5-pad4_ net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ dac_bridge_3
r1  out net-_r1-pad2_ 10k
r2  out net-_r2-pad2_ 20k
r3  out net-_r3-pad2_ 10k
* u8  out plot_v1
* u3  in plot_v1
v1  net-_u4-pad1_ gnd 5v
a1 [net-_u1-pad1_ ] [? ] [in ] [net-_u1-pad4_ ] u1
a2 [net-_u1-pad4_ ] [? ] [in ] [net-_u2-pad4_ ] u2
a3 [net-_u2-pad4_ ] [? ] [in ] [net-_u5-pad4_ ] u5
a4 [net-_u5-pad4_ ] [? ] [in ] [net-_u6-pad4_ ] u6
a5 net-_u6-pad4_ net-_u1-pad1_ u9
a6 [net-_u4-pad1_ ] [in ] u4
a7 [net-_u1-pad4_ net-_u2-pad4_ net-_u5-pad4_ ] [net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ ] u7
* Schematic Name:                             dff, NgSpice Name: dff
.model u1 dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u2 dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=2 ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u5 dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=3 ) 
* Schematic Name:                             dff, NgSpice Name: dff
.model u6 dff(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=4 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 20e-06 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
